US04474754
5.06 Grams of Z-Ser-NHNH2 was dissolved in 50 ml of dimethylformamide with 6.66 ml of 6N-hydrochloric acid/dioxane, the solution was cooled to -15° C. then 2.68 ml of isoamyl nitrite was added thereto, and the mixture was stirred for 5 minutes. Next, 5.60 ml of triethylamine was added to neutralize the reaction mixture. This reaction mixture was added to 30 ml of dimethylformamide solution containing 3.11 g of H-Ser-OMe.HCl and 2.80 ml of triethylamine, then this mixture was stirred at 4° C. for 20 hours. Dimethylformamide was removed by distillation, the residue obtained was extracted with ethyl acetate, the extract was washed with water and was dried with anhydrous sodium sulfate. After removal of ethyl acetate by distillation, the residue was crystallized by adding ether, reprecipitated from ethyl acetate-ether to obtain 3.75 g of Z-Ser-Ser-OMe.

reactant | Z-Ser-NHNH2 | N([C@@H](CO)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C11H15N3O4
reactant | isoamyl nitrite | 2.68 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | triethylamine | 5.60 ml | C(C)N(CC)CC | C6H15N
reactant | H-Ser-OMe.HCl | 3.11 g | N[C@@H](CO)C(=O)OC.Cl
reactant | triethylamine | 2.80 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid dioxane | Cl.O1CCOCC1
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Z-Ser-Ser-OMe | 3.75 g | N([C@@H](CO)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C15H20N2O7
